US08729112B2
4-(Hydroxymethyl)-4-methyloxazolidin-2-one
A Dean-Stark trap was fitted to a flask containing 2-amino-2-methyl-1,3-propanediol (21.62 g, 205.6 mmol) suspended in diethyl carbonate (40 ml, 330 mmol). The suspension was heated to 150° C. for 6 h, during which time approximately 12 ml of ethanol was distilled. The solution was cooled to RT overnight, and the resulting crystals were filtered and washed with cold ethanol. The crude material (˜90% purity) was used without further purification (24.82 g, 189.0 mmol, 92%). 1H NMR (CDCl3, 400 MHz) δ 1.36 (s, 3H), 2.2 (br s, 1H), 3.57 (m, 2H), 4.06 (d, 1H, J=8.8 Hz), 4.33 (d, 1H, J=8.8 Hz), 5.2 (br s, 1H). LRMS (ESI/APCI): 132 [M+H]+.

reactant | 2-amino-2-methyl-1,3-propanediol | 205.6 mmol, 21.62 g | NC(CO)(CO)C | C4H11NO2
reactant | diethyl carbonate | 330 mmol, 40 ml | C(OCC)(OCC)=O | C5H10O3
solvent | ethanol | approximately 12 ml | C(C)O | C2H6O
product | 4-(Hydroxymethyl)-4-methyloxazolidin-2-one | OCC1(NC(OC1)=O)C | C5H9NO3
